US04937371
To a stirred solution of 3.0 g (0.011 mole) of 2-(4-chloro-butyl)-6,7-dimethoxynaphthalene in 25 mL of methylene chloride cooled in an ice bath was added 1.8 mL (0.023 mole) of sulfuryl chloride in 10 mL of methylene chloride over 15 minutes. The reaction mixture was stirred at 3° C. for 30 minutes, at 24° C. for 6 hours and then was washed with sodium bicarbonate solution, dried and concentrated under reduced pressure. Purification by HPLC using 2.5% ethyl acetate-hexane gave 3.32 g (79% yield) of 1,4-dichloro-6-(4-Chlorobutyl)-2,3-dimethoxynaphthalene as an oil.

reactant | 2-(4-chloro-butyl)-6,7-dimethoxynaphthalene | 0.011 mole, 3.0 g | ClCCCCC1=CC2=CC(=C(C=C2C=C1)OC)OC | C16H19ClO2
reactant | sulfuryl chloride | 0.023 mole, 1.8 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,4-dichloro-6-(4-Chlorobutyl)-2,3-dimethoxynaphthalene | 3.32 g, 79% yield | ClC1=C(C(=C(C2=CC(=CC=C12)CCCCCl)Cl)OC)OC | C16H17Cl3O2
